US05977139
Combine t-butyl 1-piperazinecarboxylate (10.47 g, 56.2 mmol), ethyl acrylate (8 mL) in ethanol (30 mL). Heat at reflux. After 5.5 hours, cool the reaction mixture and evaporate in vacuo to give a residue. Combine the residue and diethyl ether (200 mL) and extract with a 1M aqueous solution of hydrochloric acid. Adjust the pH of the aqueous layer to basic using sodium bicarbonate and then extract with ethyl acetate. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give t-butyl 4-carboethoxyethyl-1-piperazinecarboxylate.

reactant | t-butyl 1-piperazinecarboxylate | 56.2 mmol, 10.47 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | ethyl acrylate | 8 mL | C(C=C)(=O)OCC | C5H8O2
reactant | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | t-butyl 4-carboethoxyethyl-1-piperazinecarboxylate | C(=O)(OCC)CCN1CCN(CC1)C(=O)OC(C)(C)C | C14H26N2O4
